US04021479
4-(2'-Fluoro-4'-amino-4-biphenylyl)-butyric acid
Prepared analogous to Example 7 from 4-(2'-fluoro-4'-nitro-4-biphenylyl)-4-oxo-butyric acid. Melting point of the hydrochloride: 170° C. (decomp.). C. C.

reactant | 4-(2'-fluoro-4'-nitro-4-biphenylyl)-4-oxo-butyric acid | FC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12FNO5
reactant | hydrochloride | Cl | ClH
product | 4-(2'-Fluoro-4'-amino-4-biphenylyl)-butyric acid | FC1=C(C=CC(=C1)N)C1=CC=C(C=C1)CCCC(=O)O | C16H16FNO2
